US07022689B2
To 1733 g of chlorosulfonic acid was added in small portions 150 g of 4-methoxybenzamide under ice-cooling with stirring during 15 minutes, and the mixture was stirred at room temperature for 14 hours. After being stirred at 50° C. for additional 1.5 hours, the reaction mixture was dropped into 7 kg of ice. The precipitate was collected by filtration, washed with water and hexane to give 230 g of 5-carbamoyl-2-methoxybenzenesulfonyl chloride.

reactant | chlorosulfonic acid | 1733 g | ClS(=O)(=O)O | ClHO3S
reactant | 4-methoxybenzamide | 150 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
product | 5-carbamoyl-2-methoxybenzenesulfonyl chloride | 230 g | C(N)(=O)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C8H8ClNO4S
